.SUBCKT OTA1 3 2 6 7 4 5
Q1 9 3 10 Q2N2222
Q2 12 2 10 Q2N2222
Q3 9 9 7 Q2N2907
Q4 6 9 7 Q2N2907
Q5 12 12 7 Q2N2907
Q6 11 12 7 Q2N2907
Q7 11 11 4 Q2N2222
Q8 6 11 4 Q2N2222
Q9 5 5 4 Q2N2222
Q10 10 5 4 Q2N2222
.ENDS
.LIB NOM.LIB